US09238631B2
g) Di-tert-butyl (5S)-2-[4-(benzyloxy)benzyl]-2-(benzyloxycarbonyl)-5-[(tert-butoxy-carbonyl)amino]hexanedioate
To a solution of 1.00 g di-tert-butyl (5S)-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)-amino]hexanedioate (1.97 mmol) in NA-dimethyl formamide (20 mL) was added under argon atmosphere 71 mg of sodium hydride (60% in oil, 1.77 mmol). The resulting mixture was stirred at room temperature for 30 minutes. A solution of 546 mg 4-benzyloxybenzyl bromide (1.97 mmol; prepared according to Helv. Chim. Acta, 2002, 85, 3422) in N,N-dimethylformamide (10 mL) was added, and the mixture was stirred at 60° C. for one hour. After cooling to room temperature, the mixture was concentrated in vacuo and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated. The residue was purified by column chromatography on silica gel (2.5→20% ethyl acetate in hexane) to give 1.22 g of the title compound (88% yield).

reactant | di-tert-butyl (5S)-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)-amino]hexanedioate | 1.97 mmol, 1.00 g | C(C1=CC=CC=C1)OC(=O)C(C(=O)OC(C)(C)C)CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C27H41NO8
reactant | sodium hydride | 1.77 mmol, 71 mg | [H-].[Na+]
reactant | 4-benzyloxybenzyl bromide | 1.97 mmol, 546 mg | C(C1=CC=CC=C1)OC1=CC=C(CBr)C=C1 | C14H13BrO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
product | Di-tert-butyl (5S)-2-[4-(benzyloxy)benzyl]-2-(benzyloxycarbonyl)-5-[(tert-butoxy-carbonyl)amino]hexanedioate | 1.22 g, 88% yield | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OC(C)(C)C)(CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2)C=C1 | C41H53NO9
